Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization with stenting

 
History of Present Illness:
Pt is a ___ M w HTN, hyperchol, and long h/o smoking, who now 
p/w worsening chest pain x 5 days.  
.  
Pt was in his USOH until 5 days PTA, when he noted new-onset 
pressure-like chest pain, vague, non-radiating, unclear whether 
exertional (worse w standing up, better lying down, but not 
worse with walking up a flight of stairs), associated w mild 
SOB, diaphoresis and dizziness. The pain was ___ at 
presentation, intermittently better, but returning in worsening 
episodes ("attacks"), ___ on the day PTA, so the pt stayed in 
bed. He called ___ in the next morning. Given ASA 325mg and 
SLNTG x2, which improved the pain.  
.  
In the ED, his vitals were 98.5, 179/95, 72, 18, SaO2 100% on 2L 
oxygen by NRB. EKG showed SR @ 58bpm, TWI in II, III, avF 
(inferior leads) and V5-V6 (lateral leads). Pt was given nitro 
paste, morphine 4gm IV, which further improved the pain. Cardiac 
enzymes showed Trp 0.45, CK 356, MB 24, MBI 6.7. Started on a 
heparin drip, and admitted to cariology.  
.  
On admission to the floor the pt had chest pain ___. Pt was 
started on metoprolol 12.5mg BID, atorvastatin 40mg daily, 
clopidogrel 300mg bolus and eptifibatide drip.  
.  
Pt has not seen a physician ___ ___ years. Denies 
abdominal/urinary sx. No HA. No F/C.  

 
Past Medical History:
HTN  
hypercholesterolemia
stroke in ___  
Rheumatic Heart Dz  

 
Social History:
___
Family History:
Non-contributory;  
M - died of lung cancer at age ___ yrs  
F - h/o RHDz; died of unclear causes at age ___ yrs  

 
Physical Exam:
VS - 98.3, 158/92, 65, 18, 100% on RA  
Gen: articulate, WDWN male in NAD  
HEENT: NCAT. Anicteric sclera. PERRL, EOMI. Clear OP. MMM.  
Neck: Supple with JVP of 6 cm.  
CV: RRR, s1s2, no m/r/g  
Chest: CTAB, no w/r/r  
Abd: Soft, NTND.  
Ext: No c/c/e. No femoral bruits. 2+ femoral, dp, radial pulses 
b/l  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
CBC:
___ 04:12PM   WBC-12.2* RBC-5.53 HGB-15.4 HCT-47.9 MCV-87 
MCH-28.0 MCHC-32.2 RDW-14.8
___ 04:12PM   NEUTS-76.8* ___ MONOS-4.4 EOS-0.3 
BASOS-0.4
.
Chem-10:
___ 04:12PM   GLUCOSE-103 UREA N-18 CREAT-1.3* SODIUM-141 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-28 ANION GAP-14
___ 06:08AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.0
.
Cardiac enzymes:
___ 04:12PM BLOOD cTropnT-0.45*
___ 04:12PM BLOOD CK(CPK)-356*
___ 04:12PM BLOOD CK-MB-24* MB Indx-6.7*
___ 11:25PM BLOOD CK-MB-46* MB Indx-10.1* cTropnT-0.91*
___ 11:25PM BLOOD CK(CPK)-455*
___ 06:08AM BLOOD CK-MB-49* MB Indx-10.1* cTropnT-1.30*
___ 06:08AM BLOOD CK(CPK)-485*
___ 10:15AM BLOOD CK-MB-43* MB Indx-9.2*
___ 10:15AM BLOOD CK(CPK)-466*
___ 04:55PM BLOOD CK(CPK)-382*
___ 07:10AM BLOOD CK(CPK)-236*
.
Thyroid:
___ 04:55PM BLOOD TSH-17*
___ 04:55PM BLOOD Free T4-0.67*
.
Cardiac Cath (___):
1. Two vessel CAD w diffuse atherosclerosis.
2. Systemic systolic arterial hypertension.
3. Mod LV diastolic CHF.
4. s/p BMS placement x2 in distal RCA.
 
Brief Hospital Course:
#. CAD: Pt presented with no known CAD, TWI inferolaterally and 
+Trp, suggestive of an NSTEMI. His TIMI score of ___ (3+ risk 
factors, age > ___, +cardiac enzymes, severe angina, EKG changes) 
put him at intermediate-high risk for MI, hence immediate 
cardiac catheterization was recommended. Pt was refusing 
catheterization, until ___ due to apprehension from procedure. 
He was started on aspirin 325mg, clopidogrel 300mg loading+75mg 
daily, metoprolol 12.5mg BID, eptifibatide, and high-dose 
atorvastatin 80mg daily. Cardiac enzymes peaked on ___, then 
downtrended (Trp, CK: 0.45, 356 --> 0.91, 455 --> 1.30, 485 --> 
CK=466 --> CK=382 --> 236). Cardiac cath was finally performed 
on ___, showed 2vCAD w diffuse atherosclerosis, with 80% 
occlusion of RCA, which was treated with the placement of BMSx2. 
Pt was discharged hemodyanmically stable on ASA 325mg PO daily, 
Clopidogrel 75mg PO daily x ___ year, metoprolol 12.5mg PO BID, 
atorvastatin 80mg PO daily.
.  
#. Pump: pt euvolemic.  
.  
#. Rhythm: pt SR, monitored on telemetry.  
.  
#. HTN: Pt was hypertensive to 160s. Lisinopril 5mg QD was 
started in addition to metoprolol 12.5mg. HCTZ was considered, 
but pt said it causes photophobia (he was on HCTZ years ago), 
which bothers him in his outdoors activities (fishing). 
Therefore, pt was discharged on lisinopril 10mg daily and 
metoprolol 12.5mg daily. Outpatient optimization of BP meds 
recommended.
.  
# Hypothyroidism: pt was found to be hypothyroid from TSH/FT4. 
Pt does not seem to be symptomatic, possibly recheck as outpt 
before starting levoxyl.  
.  
 
Medications on Admission:
None
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*
5. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
non-ST elevation inferior myocardial infarction
hypertension

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital for chest pain. We think that 
it was caused by a heart attack (non-ST elevation myocardial 
infarction), for which we treated you with medications as well 
as cardiac catheterization with stenting.
.
We changed your medications as follows:
1. Added aspirin 325mg PO daily
2. Added clopidogrel 75mg PO daily
3. Added atorvastatin 80mg PO daily
4. Added metoprolol 12.5mg PO BID
5. Added lisinopril 10mg PO daily
.
Do not stop taking aspirin and clopidogrel, unless you are told 
so by your cardiologist.
.
Please stop smoking! Information regarding smoking cessation was 
given to you on admission. 
.
If you have fever, chest pain, shortness of breath or any other 
concerns, please seek medical care.
 
Followup Instructions:
___